US06908913B2
7-(5-Phenylpyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole (297 mg) was prepared in substantially the same manner as in step c) of Synthesis Example 1, except that 275 mg of 7-(5-phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole, 0.330 ml of tri-n-butylstannyl chloride, and 1.80 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were used as the starting materials.

reactant | 7-(5-phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole | 275 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)C=1N=CN2C1SC=C2 | C17H11N3OS
reactant | tri-n-butylstannyl chloride | 0.330 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
product | 7-(5-Phenylpyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 297 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C17H10N3OS.3C4H9.Sn/c21-16(15-17-20(11-19-15)6-7-22-17)14-8-13(9-18-10-14)12-4-2-1-3-5-12;3*1-3-4-2;/h1-6,8-11H;3*1,3-4H2,2H3;
